US09334267B2
(1-Methylcyclopropyl)methyl methanesulfonate
Treat a cooled solution (0° C.) of 1-methylcyclopropanemethanol (2.0 g, 23.22 mmol) in DCM (75 mL) with TEA (2.58 g, 25.5 mmol) and add methanesulfonyl chloride (2.93 g, 25.5 mmol) dropwise. Stir the mixture at 0° C. for 2 h, wash with H2O then brine, dry over Na2SO4 and concentrate to dryness to afford the title compound (3.66 g, 96%) as an oil. 1H NMR (400 MHz, DMSO-d6): δ 3.60 (s, 3H), 2.10 (m, 2H), 0.72 (s, 3H), 0.14 (m, 2H), 0.01 (m, 2H).

reactant | 1-methylcyclopropanemethanol | 23.22 mmol, 2.0 g | CC1(CC1)CO | C5H10O
reactant | methanesulfonyl chloride | 25.5 mmol, 2.93 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | (1-Methylcyclopropyl)methyl methanesulfonate | 3.66 g, 96% | CS(=O)(=O)OCC1(CC1)C | C6H12O3S
